US09238640B2
To a solution of 2-nitro-5-(2-pyrrolidin-1-yl-ethyl)-benzoic acid methyl ester in THF (16 mL) was added 10% palladium on charcoal (0.23 g). The resulting reaction mixture was hydrogenated under 40 psi for 2 hours, then the catalyst was filtered off and the filtrate concentrated under high vacuum to give 2-amino-5-(2-pyrrolidin-1-yl-ethyl)-benzoic acid methyl ester as a yellow oil. Yield: 1.04 g (89.6%). The crude material was used in the next step without further purification.

reactant | 2-nitro-5-(2-pyrrolidin-1-yl-ethyl)-benzoic acid methyl ester | COC(C1=C(C=CC(=C1)CCN1CCCC1)[N+](=O)[O-])=O | C14H18N2O4
solvent | THF | 16 mL | C1CCOC1 | C4H8O
catalyst | palladium on charcoal | 0.23 g | [Pd] | Pd
product | 2-amino-5-(2-pyrrolidin-1-yl-ethyl)-benzoic acid methyl ester | COC(C1=C(C=CC(=C1)CCN1CCCC1)N)=O | C14H20N2O2
